US05451601
By carrying out the procedure as in Example 2, but using 1.37 g of {3-[N-(2-hydroxyethyl)-N-methylamino]-2-propoxy}phenylacetic acid and 1.2 g of (3aR, 7R, 7aR)-4,4-diphenyl-7-fluoroperhydroisoindole hydrochloride, 0.86 g of (3aR,7R,7aR)-2-{{3-[N-(2-hydroxyethyl)-N-methylamino]-2-propoxy}phenylacetyl}-4,4-diphenyl-7-fluoroperhydroisoindole is obtained, after purification by chromatography on a silica gel column, in the form of a white meringue.

reactant | {3-[N-(2-hydroxyethyl)-N-methylamino]-2-propoxy}phenylacetic acid | 1.37 g | OCCN(C)CC(C)OC(C(=O)O)C1=CC=CC=C1 | C14H21NO4
reactant | (3aR, 7R, 7aR)-4,4-diphenyl-7-fluoroperhydroisoindole hydrochloride | 1.2 g | Cl.C1(=CC=CC=C1)C1([C@@H]2CNC[C@@H]2[C@@H](CC1)F)C1=CC=CC=C1
product | (3aR,7R,7aR)-2-{{3-[N-(2-hydroxyethyl)-N-methylamino]-2-propoxy}phenylacetyl}-4,4-diphenyl-7-fluoroperhydroisoindole | 0.86 g | OCCN(C)CC(C)OC(C(=O)N1C[C@@H]2[C@@H](CCC([C@@H]2C1)(C1=CC=CC=C1)C1=CC=CC=C1)F)C1=CC=CC=C1 | C34H41FN2O3
